US05461059
Step D: 1-[(4-tertbutylphenyl) 4-tetrahydro pyranyloxybutyl] 4-hydroxyimino piperidine
58.4 g of 1-chloro 1-(4-tertbutylphenyl) 1-tetrahydro pyranyloxy butane in 200 ml ethanol are heated to reflux under stirring with 20 g 4-hydroxyimino piperidine and 20 g sodium carbonate. After 20 hours reflux, the solution is concentrated to dryness then taken up with water, extracted with dried methylene chloride and concentrated to dryness under vacuum 70.5 g of pure compound are thus produced. It is recrystallized from methanol to recover 40 g of a solid having a melting point of 150°-151° C.

reactant | 1-chloro 1-(4-tertbutylphenyl) 1-tetrahydro pyranyloxy butane | 58.4 g | ClC(CCC)(OC1OCCCC1)C1=CC=C(C=C1)C(C)(C)C | C19H29ClO2
reactant | 4-hydroxyimino piperidine | 20 g | ON=C1CCNCC1 | C5H10N2O
reactant | sodium carbonate | 20 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-[(4-tertbutylphenyl) 4-tetrahydro pyranyloxybutyl] 4-hydroxyimino piperidine | C(C)(C)(C)C1=CC=C(C=C1)C(CCCN1CCC(CC1)=NO)OC1OCCCC1 | C24H38N2O3
